US05534518
A stirred mixture of 5.7 grams (0.020 mole) of 5-chloro-2-methoxyphenylboronic acid, 3.3 grams (0.014 mole) of 2-amino-5-bromo-6-chlorobenzonitrile (prepared in Step A of this Example), 21 mL of aqueous 2M sodium carbonate, and 0.15 gram (catalyst) of tetrakis(triphenylphosphine)palladium(0) in 50 mL of toluene was heated at reflux for about 17 hours. After this time, 50 mL of ethyl acetate was added to the reaction mixture. The organic layer was separated and washed with 50 mL of water and then with 50 mL of an aqueous solution saturated with sodium chloride. The organic layer was then dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 3.8 grams of 2-amino-6-chloro-5-(5-chloro-2-methoxyphenyl)benzonitrile. The NMR spectrum was consistent with the proposed structure.

reactant | 5-chloro-2-methoxyphenylboronic acid | 0.020 mole, 5.7 grams | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | 2-amino-5-bromo-6-chlorobenzonitrile | 0.014 mole, 3.3 grams | NC1=C(C#N)C(=C(C=C1)Br)Cl | C7H4BrClN2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-6-chloro-5-(5-chloro-2-methoxyphenyl)benzonitrile | 3.8 grams | NC1=C(C#N)C(=C(C=C1)C1=C(C=CC(=C1)Cl)OC)Cl | C14H10Cl2N2O
